US08198269B2
(1) Synthesis of 5-ethoxypyrazine-2-carboxylic acid
A 5 N sodium hydroxide solution (2 mL) was added to a solution of methyl 5-chloropyrazine-2-carboxylate (150 mg) in ethanol (4 mL), and the mixture was stirred at room temperature for five hours. Ethyl acetate and water were added to the reaction solution, and the aqueous layer was separated. The aqueous layer was made acidic with concentrated hydrochloric acid. Brine and ethyl acetate were added to the mixture, and the organic layer was separated. The organic layer was dried over anhydrous magnesium sulfate. The organic layer was concentrated to obtain the title compound (135 mg).

reactant | sodium hydroxide | 5 N, 2 mL | [OH-].[Na+]
reactant | methyl 5-chloropyrazine-2-carboxylate | 150 mg | ClC=1N=CC(=NC1)C(=O)OC | C6H5ClN2O2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 5-ethoxypyrazine-2-carboxylic acid | 135 mg | C(C)OC=1N=CC(=NC1)C(=O)O | C7H8N2O3
